US04927968
1-Amino-2-{3-[3-(1,3-dioxolan-2-yl)phenoxy]propylamino}-1-cyclobutene-3,4-dione
A solution of 3-[3-(1,3-dioxolan-2-yl)phenoxy]propylamine (12.62 g, 56.5 mmole) and 1-amino-2-butoxy-1-cyclobutene-3,4-dione (10.0 g, 56.5 mmole) in 250 mL of methanol was stirred at ambient temperature. After 21 hours, the thick reaction mixture was filtered and the filter cake was washed with cold methanol. The collected solid was dried in vacuo to give 17.9 g of the title compound.

reactant | 3-[3-(1,3-dioxolan-2-yl)phenoxy]propylamine | 56.5 mmole, 12.62 g | O1C(OCC1)C=1C=C(OCCCN)C=CC1 | C12H17NO3
reactant | 1-amino-2-butoxy-1-cyclobutene-3,4-dione | 56.5 mmole, 10.0 g | NC1=C(C(C1=O)=O)OCCCC | C8H11NO3
solvent | methanol | 250 mL | CO | CH4O
product | 1-Amino-2-{3-[3-(1,3-dioxolan-2-yl)phenoxy]propylamino}-1-cyclobutene-3,4-dione | 17.9 g | NC1=C(C(C1=O)=O)NCCCOC1=CC(=CC=C1)C1OCCO1 | C16H18N2O5
